*TB LELO_5TOTA_PMOS — AC Analysis (open-loop gain, phase, GBW, PM)
*----------------------------------------------------------------
* Include
*----------------------------------------------------------------
#ifdef Lay
.include ../../../work/lpe/LELO_5TOTA_PMOS_lpe.spi
#else
.include ../../../work/xsch/LELO_5TOTA_PMOS.spice
#endif

*-----------------------------------------------------------------
* OPTIONS
*-----------------------------------------------------------------
.option TNOM=27 GMIN=1e-15 reltol=1e-3 srcsteps=20

*-----------------------------------------------------------------
* PARAMETERS
*-----------------------------------------------------------------
.param AVDD     = 1.8
.param vcm      = 0.9
* Forced tail bias current into diode M4 (W=50,L=1.0) — M4 self-biases, M6 mirrors
.param ibias_val = 6.26u
* Load capacitor at output (typical OTA test: 1pF)
.param CL_val   = 1p

*-----------------------------------------------------------------
* SOURCES
*-----------------------------------------------------------------
VSS    VSS    0      dc 0
VDD    VDD    0      dc {AVDD}

* Differential AC stimulus
VVINP  VINP   0      dc {vcm} ac 0.5
VVINM  VINN   0      dc {vcm} ac -0.5

* Current source on IBIAS: M4 (diode) sinks ibias_val, self-biases VGS, M6 mirrors
* SPICE convention: current flows from VSS into IBIAS (enters M4 drain)
IIBIAS IBIAS VSS  dc {ibias_val}  $ PMOS diode: current drawn from IBIAS to VSS

*-----------------------------------------------------------------
* LOAD — capacitive load at VOUT
*-----------------------------------------------------------------
CL     VOUT   VSS    {CL_val}

*-----------------------------------------------------------------
* DUT
*-----------------------------------------------------------------
.include ../xdut.spi

*-----------------------------------------------------------------
* NODESET — guide solver to correct op point
*-----------------------------------------------------------------
.nodeset v(vout)      = 1.05
.nodeset v(xdut.net1) = 0.45
.nodeset v(xdut.net2) = 0.82
.nodeset v(ibias)     = 0.55

*-----------------------------------------------------------------
* AC SWEEP: 1Hz to 1GHz, 100 points/decade
*-----------------------------------------------------------------

*----------------------------------------------------------------
* SAVE
*----------------------------------------------------------------
.save all
.save v(VOUT) v(VINP) v(VINN)

*----------------------------------------------------------------
* NGSPICE control
*----------------------------------------------------------------
.control
set num_threads=8
unset askquit
set filetype=ascii

ac dec 100 1 1G

* Create named vectors so meas ac FIND can interpolate them correctly
* Normalise by the actual differential input so gain is correct for any ac amplitude
* vdb() only works on node names — use 20*log10(abs()) for computed vectors
* vp() returns RADIANS in ngspice — convert to degrees explicitly
let vidiff       = v(vinp) - v(vinn)
let gain_mag_db  = 20*log10(abs(v(vout))) - 20*log10(abs(vidiff))
let gain_ph_deg  = 180/PI * vp(vout)

* ---- Measure DC gain ----
meas ac dc_gain_db   FIND gain_mag_db  AT=1

* ---- -3dB bandwidth ----
let f3db_target = dc_gain_db - 3
meas ac f3db         WHEN gain_mag_db = f3db_target

* ---- Unity-gain frequency (GBW) ----
meas ac fgbw         WHEN gain_mag_db = 0

* ---- Phase at unity-gain → Phase Margin ----
* PM = 180 + phase(A) where A is the open-loop forward gain (positive DC gain)
* For single-pole: phase at UGF ≈ -90° → PM ≈ 90°
meas ac phase_ugf    FIND gain_ph_deg  WHEN gain_mag_db = 0
let pm = phase_ugf + 180

echo ""
echo "================================================"
echo "  5T OTA — AC ANALYSIS RESULTS"
echo "================================================"
echo ""
echo "  DC gain (dB)  :"
print dc_gain_db
echo ""
echo "  -3dB BW (Hz)  :"
print f3db
echo ""
echo "  GBW (Hz)      :"
print fgbw
echo ""
echo "  Phase at GBW  :"
print phase_ugf
echo "  Phase Margin (deg) :"
print pm
echo ""

write {cicname}.raw
quit
.endc

.end
